Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
confusion, seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 The patient is a ___ woman
with a unclear history of seizure disorder who presents as a
transfer from ___ after she was noted to be
confused by her husband.

In speaking with the patient, she tells me that "I was at home",
she also believes she had a seizure.  She tells me that she "was
on the recliner, and kept saying we need to split this".  She
clarifies this as saying that she was referring to the cost of
the recliner, although they had not recently purchased it.  Her
husband apparently thought she was joking.  He kept telling her
that she did not make sense.  She feels that she remembers the
entire episode.

Her husband provides most of the additional history.  He states
that she was in her usual state of health when she went to bed
last night.  She slept on the recliner, as she sometimes does. 
He awoke at around 5:30 AM and found her sitting in the 
recliner.
Not long after, she started repeating several things that did 
not
make sense, including "50-50", or ___.  She did not
respond to him when he called her name.  He tried to help her 
get
up and go to the bathroom and she was able to walk though seems
somewhat unsteady.  She was not falling to one side or the 
other.
He does note that both arms seem somewhat tremulous, but denies
any overt rhythmicity to this.  He did not try to suppress the
tremors.  This episode of confusion lasted for at least half an
hour or so.

He then brought her to ___ by EMS.  Due to concern
for seizure by EMS, she was given 2 mg IV midazolam.  Blood
glucose was 140.  Initial vitals at ___ were notable for
temp 98.7, pulse 107, blood pressure 164/99.  She was noted to
have difficulty forming words and "seems a phasic".  She 
remained
afebrile.  Head CT was obtained and showed no acute intracranial
abnormality.  In discussion with the on-call neurologist at
___, it was recommended that she receive Keppra and be
transported for EEG monitoring.  She was given 1 g IV
levetiracetam.

Regarding her seizure history, her husband reports a
long-standing history of seizures dating back to approximately
___.  Of note, she had previously seen Dr. ___ in neurology,
though his since followed with Dr. ___ at ___ 
___.
Her husband describes seizures as consisting of whole body
shaking, with loss of consciousness.  He believes there is some
sort of aura, but neither he nor the patient are sure what it 
is.
Seizure frequency is approximately once per year or once every ___
years.  Her last seizure was about ___ years ago.  She does tell 
me
she has a history of "6 seizures back-to-back" which required
prolonged hospitalization at ___.  She is unsure
of any triggers for her seizures.  Her current seizure
medications include lacosamide and topiramate.  She was
previously on Keppra, but apparently continued to have seizures
so it was switched.

Of note, she does endorse occasionally missing doses of her
medicines.  She also reports that she ran out of her Suboxone in
the last 3 days.  She otherwise denies recent illnesses,
stressors, or sleep deprivation.

 
Past Medical History:
Seizure disorder
Substance use disorder (Percocet), on Suboxone
Depression                                                  
 
Social History:
___
Family History:
Multiple cousins with epilepsy.
 
Physical Exam:
Admission exam:
Vitals: T: 100.9 p: 84 R: 16  BP: 144/50 SaO2: 97% room air
General: Awake, no distress.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake and alert.  Has a somewhat difficult time
with relating the history, and tends to perseverate on prior
tasks/sentences.  Tells me we are at ___ in ___. 
States date is ___.  Lists days of the week forward
and backward easily.  When asked to list months of the year
backwards she list the first 4 correctly, then tends to
repeat/perseverate on this task.  She is able to name all the
objects on the stroke card, but struggles with the hammock.  
When
describing the ___ theft picture she says "mother is washing
dishes, it is a homey seen, the kids are not helping".  She
calculates ___ in $1.50.  She is able to follow commands, repeat
phrases.  She registers ___ objects with 2 attempts, and can
recall ___ at 5 minutes.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk.  Few beats of
nystagmus bilaterally. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout with the exception of
contractures/bilateral clubbed feet. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     0   
R  5    ___   ___  5   5    5  5     5     0
-Sensory: No deficits to light touch, pinprick, vibratory sense,
proprioception throughout. No extinction to DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Plantar response was mute bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: Not tested

==================================
Discharge exam:
General: Awake, no distress.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake and alert.  Able to relate history without
difficulty. A little slow to name high frequency objects. Recall
immediate and delayed is ___.
II, III, IV, VI:  PERRL 3 to 2mm and brisk.  Few beats of
nystagmus bilaterally. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout with the exception of
contractures/bilateral clubbed feet. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted. Full throughout
-Sensory: No deficits to light touch, pinprick, vibratory sense,
proprioception throughout. No extinction to DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Plantar response was mute bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: Not tested

 
Pertinent Results:
___ 05:19PM URINE  HOURS-RANDOM
___ 05:19PM URINE  bnzodzpn-POS* barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:19PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:19PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 10:49AM   GLUCOSE-106* UREA N-7 CREAT-0.5 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-111* TOTAL CO2-20* ANION GAP-11
___ 10:49AM   estGFR-Using this
___ 10:49AM   WBC-12.7* RBC-4.62 HGB-13.3 HCT-41.0 MCV-89 
MCH-28.8 MCHC-32.4 RDW-16.9* RDWSD-54.8*
___ 10:49AM   NEUTS-69.9 ___ MONOS-5.8 EOS-0.1* 
BASOS-0.9 IM ___ AbsNeut-8.87* AbsLymp-2.88 AbsMono-0.74 
AbsEos-0.01* AbsBaso-0.12*
___ 10:49AM   PLT COUNT-404*

Non-Contrast CT of Head: No acute intracranial abnormality

MRI brain w/wo contrast:
IMPRESSION: 
  
  
1. Motion limited exam. 
2. No evidence for an intracranial mass or acute intracranial 
abnormalities. 
3. Coronal T2 weighted imaging was not performed, limiting 
evaluation for a 
medial temporal seizure focus.  The medial temporal lobes appear 
grossly 
symmetric on the images provided.  Dedicated seizure protocol 
MRI could be 
considered for further evaluation if clinically warranted. 

 
Brief Hospital Course:
___ woman with a history of depression, opioid
use disorder (clean ___ years, on suboxone), likely epilepsy, 
with
typical seizures consisting of what sounds to be generalized
tonic-clonic ___ years, who presented after a somewhat prolonged
episode of confusion and nonsensical speech. This occurred in 
the
setting of likely med noncompliance (by her own description,
missed AEDs 1 day, suboxone 3 days), as well as substance use
including cannabis.
On exam, on admission she was somewhat inattentive globally
encephalopathic, but the following day she was back at her 
baseline. 
Suspicion most likely focal seizure with impaired awareness,
which is a new semiology. Trigger is likely medication
non-compliance, personal stress (acute on chronic depression),
low grade illness (Tmax 100.9, PNA earlier this year,
intermittent diarrhea). MRI showed no acute process.
Although, suspicion for TIA is lower, will rule out TIA and 
check risk factors
(smoker). Low suspicion for infectious process. Will not make 
any
acute AED changes. Has established follow up with psych for her
depression and personal stressors. Will follow up with her 
outpatient neurologist. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. LACOSamide 150 mg PO BID 
2. Gabapentin 200 mg PO BID 
3. Topiramate (Topamax) 100 mg PO QAM 
4. Topiramate (Topamax) 200 mg PO QPM 
5. Escitalopram Oxalate 10 mg PO DAILY 
6. Buprenorphine-Naloxone Film (8mg-2mg) 1 FILM SL DAILY 

 
Discharge Medications:
1.  Buprenorphine-Naloxone Film (8mg-2mg) 1 FILM SL DAILY  
2.  Escitalopram Oxalate 10 mg PO DAILY  
3.  Gabapentin 200 mg PO BID  
4.  LACOSamide 150 mg PO BID  
5.  Topiramate (Topamax) 100 mg PO QAM  
6.  Topiramate (Topamax) 200 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ were admitted to ___ for further evaluation of an episode 
concerning for seizure. ___ underwent an MRI of your brain which 
did not show anything abnormal on preliminary read. We believe 
that ___ had a seizure due to recent stressors, and missing 
medication. Although, we think your symptoms were due to seizure 
rather than stroke we will send a few labs such as checking your 
cholesterol and hemoglobin A1c before ___ leave the hospital. 
Please take your medication as prescribed and follow up with 
your neurologist.

It was a pleasure taking care of ___!
Your ___ care team
 
Followup Instructions:
___